US03979381
B. 2,3,3a,4,6,7-Hexahydro-3-phenyl-7-(phenylmethylene)-2-propylthiopyrano[4,3-c]pyrazole-5,5-dioxide
A mixture of 3.24g of tetrahydro-3,5-bis-(phenylmethylene)-4H-thiopyran-4-one-1,1-dioxide and 0.6g of n-propyl hydrazine in 100ml of absolute methanol is heated at reflux temperature for 2 hours. The mixture is allowed to cool, and is then filtered to give 2.8g of crude product. The crude material is stirred for about 16 hours in 200ml of carbon tetrachloride and filtered. The mother liquor is concentrated in vacuo and the residue is crystallized from methanol to give 1.5g of the title compound, melting point 197°-199°C.

reactant | tetrahydro-3,5-bis-(phenylmethylene)-4H-thiopyran-4-one-1,1-dioxide | 3.24g | C1(=CC=CC=C1)C=C1CS(CC(C1=O)=CC1=CC=CC=C1)(=O)=O | C19H16O3S
reactant | n-propyl hydrazine | 0.6g | C(CC)NN | C3H10N2
solvent | methanol | 100ml | CO | CH4O
solvent | carbon tetrachloride | 200ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,3,3a,4,6,7-Hexahydro-3-phenyl-7-(phenylmethylene)-2-propylthiopyrano[4,3-c]pyrazole-5,5-dioxide | 1.5g | C1(=CC=CC=C1)C1C2C(=NN1CCC)C(CS(C2)(=O)=O)=CC2=CC=CC=C2 | C22H24N2O2S
